US07700641B2
A. Synthesis of 3-hydroxy-3-[2-hydroxy-5-(trifluoromethyl)phenyl]-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with α,α,α-trifluorocresol, the title compound was obtained (46%): 1H NMR (300 MHz, CDCl3) δ 9.75 (s, 1H), 7.50-7.39 (m, 3H), 7.21 (td, 1H), 7.10-7.02 (m, 2H), 6.96 (d, 1H), 4.26 (s, 1H), 3.82-3.59 (m, 2H), 1.77-1.63 (m, 2H), 1.40-1.27 (m, 4H), 0.88 (t, 3H); MS (ES+) m/z 362 (M−17), 402 (M+23).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | α,α,α-trifluorocresol | FC(C1=CC=CC=C1O)(F)F | C7H5F3O
product | 3-hydroxy-3-[2-hydroxy-5-(trifluoromethyl)phenyl]-1-pentyl-1,3-dihydro-2H-indol-2-one | OC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=C(C=CC(=C1)C(F)(F)F)O | C20H20F3NO3
